US05536718
10, 11-Dihydro-10-[[6-[(2-methylphenyl)amino]-3-pyridinyl]carbonyl]-5H-pyrrolo[2,1-c][1, 4]benzodiazepine
A mixture of 0.5 g of 10-[(6-chloro-3-pyridinyl)carbonyl]-10, 11-dihydro-5H-pyrrolo[2,1-c][1, 4]-benzodiazepine and 0.36 g of o-toluidine in 60 ml of N,N-dimethylformamide is refluxed for 16 hours. The mixture is poured into 200 ml of ice-water and extracted with three 100 ml portions of chloroform. The extract is washed with water, dried (Na2SO4) and the solvent removed. The residue is purified by chromatography on silica gel prep-plates with hexane-ethyl acetate (5:1) as solvent to give 0.56 g of yellow solid: mass spectrum (CI) 395.2 (M+H).

reactant | 10-[(6-chloro-3-pyridinyl)carbonyl]-10, 11-dihydro-5H-pyrrolo[2,1-c][1, 4]-benzodiazepine | 0.5 g | ClC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C18H14ClN3O
reactant | o-toluidine | 0.36 g | NC=1C(=CC=CC1)C | C7H9N
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 10, 11-Dihydro-10-[[6-[(2-methylphenyl)amino]-3-pyridinyl]carbonyl]-5H-pyrrolo[2,1-c][1, 4]benzodiazepine | 0.56 g | CC1=C(C=CC=C1)NC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C25H22N4O
